resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 0.987804
R2 0 n2 1.003266
R3 0 n4 1.011841
R4 n1 n3 0.087215
R5 n1 n5 1.007017
R6 n2 n3 1.013639
R7 n2 n6 1.000733
R8 n3 n7 1.011161
R9 n4 n5 0.984581
R10 n4 n6 1.002965
R11 n5 n7 1.006908
R12 n6 n7 0.982763
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
